2167-10-10 05:21:00 Physician Resident Progress Note
Chief Complaint: -intubated relatively electively
   -started on broad abx IVflagyl/POvanc/cefepime and vanc
   -think septic shock from cdiff
   -echo showed hypokinesis of RV, old compared to OSH records
   -[**Doctor First Name 213**] consulted for abd pain and cdiff
   -changed dvt ppx to lovenox per ortho
   -given 2 units prbcs
   -given 5.5L of IVF for hypotension and poor urine output
   -put on [**5-5**] this am
   24 Hour Events:
 EKG - At [**2167-10-9**] 09:13 AM
 TRANSTHORACIC ECHO - At [**2167-10-9**] 10:36 AM
 INVASIVE VENTILATION - START [**2167-10-9**] 11:52 AM
 SPUTUM CULTURE - At [**2167-10-9**] 04:57 PM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2167-10-9**] 09:46 AM
   Vancomycin - [**2167-10-10**] 12:11 AM
   Cefipime - [**2167-10-10**] 01:09 AM
   Metronidazole - [**2167-10-10**] 04:19 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-10-9**] 08:31 AM
   Omeprazole (Prilosec) - [**2167-10-9**] 08:32 AM
   Hydromorphone (Dilaudid) - [**2167-10-9**] 09:11 AM
   Fentanyl - [**2167-10-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-10**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 80 (62 - 90) bpm
   BP: 104/57(75) {92/54(69) - 129/68(90)} mmHg
   RR: 14 (0 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 16 (14 - 260)mmHg
   Total In:
                                                                  5,235 mL
                                                                  1,310 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  4,355 mL
                                                                  1,270 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    492 mL
                                                                    180 mL
   Urine:
                                                                    492 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,743 mL
                                                                  1,130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/39/135//-3
   Ve: 8.7 L/min
   PaO2 / FiO2: 270
   [**10-9**] echo
   The left atrium is dilated. There is mild symmetric left ventricular
   hypertrophy. The left ventricular cavity is small and underfilled.
   Regional left ventricular wall motion is normal. There is mild global
   left ventricular hypokinesis (LVEF = 50-55%), although in the context
   of a small cavity size, this may be slightly underestimated. The right
   ventricular free wall is hypertrophied. The right ventricular cavity is
   markedly dilated with severe global free wall hypokinesis. There is
   abnormal systolic septal motion/position consistent with right
   ventricular pressure overload. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve appears structurally normal with
   trivial mitral regurgitation. Moderate [2+] tricuspid regurgitation is
   seen. There is severe pulmonary artery systolic hypertension. There is
   no pericardial effusion.
   IMPRESSION: Dilated, hypertrophied and markedly hypokinetic right
   ventricle. Small left ventricle with mild systolic dysfunction.
   Moderate tricuspid regurgitation. Severe pulmonary hypertension.
   Physical Examination
   GENERAL: female that appears older than stated age in NAD, slightly
   somnolent
   HEENT: EOMI, anicteric, PERRL in R eye, L eye with cataract per pt, OP
   - MM dry, no cervical LAD
   CARDIAC: RRR, nl S1, S2, no m/r/g
   LUNG: decreased BS anteriorly, no w/r/r apperciated
   ABDOMEN: NDNT, soft, decreased BS
   EXT: no c/c/e, able to wiggle toes, R hip dressing c/d/i
   NEURO: A & O x 2 (name, [**Hospital1 19**], [**2168**])
   DERM: no rashes
   Labs / Radiology
   273 K/uL
   9.7 g/dL
   97 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   19 mg/dL
   104 mEq/L
   135 mEq/L
   28.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2167-10-9**]  12:54 AM
                             [**2167-10-9**]  03:08 AM
                             [**2167-10-9**]  03:26 AM
                             [**2167-10-9**]  09:40 AM
                             [**2167-10-9**]  01:21 PM
                             [**2167-10-9**]  04:33 PM
                             [**2167-10-9**]  04:57 PM
                            [**2167-10-10**]  12:40 AM
                            [**2167-10-10**]  03:58 AM
                            [**2167-10-10**]  04:10 AM
   WBC
   12.1
   12.1
   Hct
   29
   25.6
   26
   23.3
   30.4
   28.4
   Plt
   324
   273
   Cr
   0.7
   TropT
   0.05
   0.05
   TCO2
   26
   21
   20
   22
   22
   Glucose
   97
   Other labs: PT / PTT / INR:16.4/40.6/1.5, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:17/27, Alk Phos / T Bili:31/0.3,
   Lactic Acid:0.9 mmol/L, LDH:233 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.4 mg/dL
   ASSESSMENT AND PLAN: Ms. [**Known lastname 10607**] is a 60 y.o. F with CAD s/p IMI, CHF
   with EF 20%, SLE, scleroderma, severe pulmonary HTN, COPD on home O2,
   who presents with R hip fracture as an OSH transfer for surgery, s/p R
   ORIF and transferred to MICU for hypotension.
   .
   # Hypotension: Current differential include Cdiff sepsis vs hypovolemia
   (seen with LVOF obstruction on echo) vs cardiogenic shock. Has been off
   pressors since yesterday afternoon and has responded to fluids.
   Lactates have been low and SVO2 high. Has been afebrile for 24 hours.
   CVPs hard to monitor with RV failure (which is old.) Also hct
   downtrending with unclear source of bleeding, received 2units PRBCs
   yesterday.
   - cont IVF bolus MAP>55, levophed if needed
   -IVF for low UOP
   -cont broad coverage with Vanc/Cef/IV flagyl and PO Vanc
   -trend hct
   .
   # Respiratory:  Intubated prophylactically, known pulm htn given IVF
   needs and known CHF
   -wean vent, on pressure support
   -may require diuresis for vent weaning
   -restart revatio
   -f/u am CXR
   .
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**], pain d/ced epidural catheter
   - appreciate ortho recs
   - started lovenox yesterday per reenal
   - pain control with IV medication prn and lidocaine patch
   .
   # C. difficile infection: OSH admission with + c. diff. CT scan at OSH
   with pancolitis.  ID recs at OSH: prolonged PO vanco taper 125mg PO QID
   X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week,
   125mg q3 days x 2 weeks, then stop.
   -appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin at 125mg PO QID and IV flagyl
   - monitor stool output
   .
   # Systolic CHF: hold lisinopril, metoprolol, lasix given hypotension
   .
   # CAD s/p PCI to LCx:
   - continue ASA, statin
   - hold beta blocker given hypotension
   - hold Plavix for upcoming surgery given that PCI was in [**2164**]
   .
   # Hypoxia: likely multifactorial with COPD at baseline and poor
   pulmonary toilet with recent hospitalizations
   - continue Advair
   - ipratropium and albuterol nebs
   - incentive spirometer s/p surgery
   .
   # SLE: continue hydroxychloroquine
   .
   # Pulmonary Hypertension: will continue Revatio and Tracleer in AM -
   family to bring
   .
   # Neuralgia: hold amitryptline and gabapentin due to sedating effects
   .
   # FEN: IVFs / replete lytes prn / NPO except meds
   # PPX: home PPI, heparin SQ, bowel regimen
   # ACCESS: RIJ
   # CODE: FULL (confirmed)
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**]
   (home); Daughter [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**], ICU Consent signed
   # DISPO: ICU
   ICU Care
   Nutrition:
   Comments: NPO except meds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI (home)
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2167-10-10 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture. She was admitted to an OSH on [**2168-9-30**] for C diff
   pan-colitis and was d/c
ed on PO Vanc. Upon returning home, she had a
   mechanical fall and was found to have a broken hip at an OSH. She was
   referred to [**Hospital1 19**] for surgical correction. She went to right ORIF
   yesterday ([**10-8**]) afternoon. The operation was without technical
   complications. However, there is note of several hours of her having
   low to no urine out-put. In the PACU she was hypoxic post-extubation
   requiring a face mask, hypotensive requiring Neo (peripheral.) An
   a-line and pIV were placed. She came to the MICU for further care.  On
   arrival to the MICU she was groggy, without pain, and oriented to place
   but not time / year.
   24 Hour Events:
 Surgery consulted for abd pain and h/o cdiff.  No intervention
   -ANEMIA: transfused for low Hct, now stable.  Bolused overnight for low
   UOP
 TRANSTHORACIC ECHO - At [**2167-10-9**] 10:36 AM
         -hyperdynamic, small LV, c/w volume depletion. Hypokinetic RV,
   severe pulm HTN
 INVASIVE VENTILATION - START [**2167-10-9**] 11:52 AM
          -
 SPUTUM CULTURE - At [**2167-10-9**] 04:57 PM-empirically started on
   vanco/cefepime, with flagyl for h/o cdiff
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2167-10-9**] 09:46 AM (off)
   Cefipime - [**2167-10-10**] 01:09 AM
   Metronidazole - [**2167-10-10**] 04:19 AM
   Vancomycin - [**2167-10-10**] 06:00 AM
   PO vancomycin
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-10-9**] 08:31 AM
   Omeprazole (Prilosec) - [**2167-10-9**] 08:32 AM
   Hydromorphone (Dilaudid) - [**2167-10-9**] 09:11 AM
   Fentanyl - [**2167-10-10**] 12:00 AM
   Other medications:
   Lidocaine patch, atorvastatin,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 80 (62 - 90) bpm
   BP: 104/57(75) {92/54(69) - 129/68(90)} mmHg
   RR: 14 (0 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
   CVP: 16 (14 - 260)mmHg
   Total In:
                                                                  5,235 mL
                                                                  1,341 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  4,355 mL
                                                                  1,301 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    492 mL
                                                                    195 mL
   Urine:
                                                                    492 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,743 mL
                                                                  1,146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 81
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/42/77/21/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General:
   CV:
   Pulm:
   Abd:
   Extrem:
   Neuro:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   273 K/uL
   101 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   22 mg/dL
   109 mEq/L
   137 mEq/L
   28.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2167-10-9**]  03:08 AM
                             [**2167-10-9**]  03:26 AM
                             [**2167-10-9**]  09:40 AM
                             [**2167-10-9**]  01:21 PM
                             [**2167-10-9**]  04:33 PM
                             [**2167-10-9**]  04:57 PM
                            [**2167-10-10**]  12:40 AM
                            [**2167-10-10**]  03:58 AM
                            [**2167-10-10**]  04:10 AM
                            [**2167-10-10**]  07:52 AM
   WBC
   12.1
   12.1
   Hct
   25.6
   26
   23.3
   30.4
   28.4
   Plt
   324
   273
   Cr
   0.7
   0.7
   TropT
   0.05
   0.05
   TCO2
   26
   21
   20
   22
   22
   22
   Glucose
   97
   101
   Other labs: PT / PTT / INR:16.4/40.6/1.5, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:17/27, Alk Phos / T Bili:31/0.3,
   Lactic Acid:0.9 mmol/L, LDH:233 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture now s/p right ORIF yesterday with post-operative
   hypotension and hypoxia.
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   S/p repair yesterday was reportedly uncomplicated. Standard post-op
   care from an Ortho perspective. Will touch base with Pain regarding
   d/c
ing the epidural. Will decrease her Dilaudid dose to 0.125mg given
   she is quite somnolent this morning.
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   She is on PO Vanc; will continue this for the time being. Her abdominal
   exam is mildly to moderately tender; it
s unclear what her baseline is.
   Will add Flagyl IV for additional coverage.
 HYPOXEMIA
   She has underlying severe lung disease from her scleroderma
   particularly given that she is on oxygen at home. She currently appears
   volume replete clinically in as that her SvO2 is >90% and her CVP is
   >15. Would hold on further aggressive volume repletion at this time.
   Would restart Bosentan; hold Sildenafil while she is on pressors. She
   may need to get re-intubated given her tenuous clinical status.
 HYPOTENSION (NOT [**Date Range **])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Her hypotension is likely multifactorial in nature. She is on a small
   dose of Levophed currently. In the setting of her surgery yesterday,
   volume depletion is a likely consideration both from intra-operative
   blood loss and insensible losses. However, since arriving in th MICU
   she has had a persistent fever which implies some degree of
   distributive hypotension. Reassuringly her lactate was ~1, which does
   argue against significant tissue hypoxia. In addition, her EF is
   markedly low implying a cardiogenic component. Finally, PE is a
   consideration in a post-op patient. TTE won
t be particularly helpful
   in assessing this possibility as her RV was essentially
blown
 on her
   [**10-8**] (described as
overloaded and hypokinetic.
 To further clarify
   her hemodynamics, a TTE this morning will be helpful in ensuring that
   she hasn
t had an interval decrease in her EF or marked changes in her
   pulmonary hypertension. Will cycle her SvO2. With regard to her fever
   and the concern for distributive [**Last Name (LF) 281**], [**First Name3 (LF) **] f/u cultures. She needs
   empiric coverage for health care associated infections; as such we will
   add Vanc IV, Flagyl IV and Cefepime IV to her PO Vanc for broad
   coverage while cultures are pending. Provide volume resuscitation in an
   effort to take off her pressors. Will check post-op LFTs, get an
   up-right KUB and have a low threshold for pursuing further work-up of
   abdominal processes. Would check a random cortisol, TSH and consider
   checking her cardiac output with a Vigileo.
 CORONARY ARTERY DISEASE
   Holding her ACE-I, beta-blocker, and continue aspirin and Lipitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2167-10-11 07:31:00 Physician Resident Progress Note
24 Hour Events:
   - Remained on [**5-5**] yesterday
   - urine output remained marginal, but BPs remained stable without fluid
   boluses
   - started sildenafil.
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2167-10-9**] 09:46 AM
   Cefipime - [**2167-10-11**] 12:00 AM
   Metronidazole - [**2167-10-11**] 04:00 AM
   Vancomycin - [**2167-10-11**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-10**] 08:00 AM
   Enoxaparin (Lovenox) - [**2167-10-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 111 (95 - 113) bpm
   BP: 124/65(84) {96/59(74) - 128/78(90)} mmHg
   RR: 31 (25 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 17 (15 - 21)mmHg
             Total In:
                                                                  2,355 mL
                                                                    235 mL
   PO:
             TF:
   IVF:
                                                                  2,135 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                    728 mL
                                                                    194 mL
   Urine:
                                                                    728 mL
                                                                    194 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,627 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (232 - 459) mL
   PC : 5 cmH2O
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.33/40/95.[**Numeric Identifier 218**]/20/-4
   Ve: 11 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GENERAL: female that appears older than stated age in NAD, slightly
   somnolent
   HEENT: EOMI, anicteric, PERRL in R eye, L eye with cataract per pt, OP
   - MM dry, no cervical LAD
   CARDIAC: RRR, nl S1, S2, no m/r/g
   LUNG: decreased BS anteriorly, no w/r/r apperciated
   ABDOMEN: NDNT, soft, decreased BS
   EXT: no c/c/e, R hip dressing c/d/i
   NEURO: intubated/sedation off though not yet awake enough to follow
   commands.
   DERM: no rashes
   Labs / Radiology
   298 K/uL
   9.6 g/dL
   81 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.2 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   30.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2167-10-9**]  01:21 PM
                             [**2167-10-9**]  04:33 PM
                             [**2167-10-9**]  04:57 PM
                            [**2167-10-10**]  12:40 AM
                            [**2167-10-10**]  03:58 AM
                            [**2167-10-10**]  04:10 AM
                            [**2167-10-10**]  07:52 AM
                            [**2167-10-10**]  03:28 PM
                            [**2167-10-11**]  04:06 AM
                            [**2167-10-11**]  04:13 AM
   WBC
   12.1
   13.2
   12.3
   Hct
   23.3
   30.4
   28.4
   30.7
   30.1
   Plt
   273
   308
   298
   Cr
   0.7
   0.8
   TropT
   0.05
   TCO2
   20
   22
   22
   22
   22
   Glucose
   101
   81
   Other labs: PT / PTT / INR:20.1/44.3/1.9, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:17/27, Alk Phos / T Bili:31/0.3,
   Lactic Acid:0.9 mmol/L, LDH:233 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   [1][**2167-10-9**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [2][**2167-10-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2167-10-9**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2167-10-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2167-10-8**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
[**2167-10-9**] 4:53 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2167-10-9**]):
      [**10-25**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   CXR [**10-10**]
   Comparison is made to multiple prior examinations. The heart is
   markedly
   enlarged. Mediastinum is within normal limits. There is a small
   left-sided
   pleural effusion with blunting of the left costophrenic angle.
   Otherwise, the
   lungs are relatively clear. Lines and tubes are in stable position.
   Right IJ
   catheter terminates in superior vena cava. Left-sided pacer/AICD is
   present
   with two leads. The patient has been intubated. ET tube terminates in
   the
   thoracic inlet. Nasogastric tube terminates in the stomach.
   Assessment and Plan
   Ms. [**Known lastname 10607**] is a 60 y.o. F with CAD s/p IMI, CHF with EF 20%, SLE,
   scleroderma, severe pulmonary HTN, COPD on home O2, who presents with R
   hip fracture as an OSH transfer for surgery, s/p R ORIF and transferred
   to MICU for hypotension, likely multifactorial
 cardiogenic vs
   hypovolemic vs sepsis.
   .
   # Hypotension: Resolving. Current differential include Cdiff sepsis vs
   hypovolemia (seen with LVOF obstruction on echo) vs cardiogenic shock
   (?RV compressing LV causing decreased stroke volume). Has been off
   pressors for approximately 36 hours and has responded to fluids.
   Lactates have been low and SVO2 high. Low grade fever in last 24 hours.
   CVPs hard to monitor with RV failure (which is old.) Also hct
   downtrending with unclear source of bleeding, received 2units PRBCs on
   Friday.
   - cont IVF bolus MAP>55, levophed if needed
   -IVF for low UOP
   -cont broad coverage with Vanc/Cef/IV flagyl and PO Vanc, added
   levoflox.
   -trend hct
   .
   # Respiratory:  Intubated prophylactically, known pulm htn given IVF
   needs and known CHF, on pressure support
   Has a change with darker secections, suspicious for development of
   secondary infectious process or VAP
   - recheck sputum culture
   - add levofloxacin
   - hold on extubate today given still following commands.
   - diuresis as tolerated, aim -500 negative mL. 20mg IV lasix x1 now.
   - started sildenafil yesterday, increased to TID.
   - decrease Fi02
   .
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**], pain d/ced epidural catheter
   - appreciate ortho recs
   - continue lovenox
   - pain control with IV medication prn and lidocaine patch
   .
   # C. difficile infection: OSH admission with + c. diff. CT scan at OSH
   with pancolitis.  ID recs at OSH: prolonged PO vanco taper 125mg PO QID
   X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week,
   125mg q3 days x 2 weeks, then stop.
   -appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin at 125mg PO QID and IV flagyl
   - monitor stool output
   .
   # Systolic CHF:
   - holding on afterload reduction yet
   - consider captopril this afternoon if stable.
   - continue to hold metoprolol
   .
   # CAD s/p PCI to LCx:
   - continue ASA, statin
   - hold beta blocker given hypotension
   - hold Plavix for upcoming surgery given that PCI was in [**2164**]
   .
   # Hypoxia: likely multifactorial with COPD at baseline and poor
   pulmonary toilet with recent hospitalizations
   - continue Advair
   - ipratropium and albuterol nebs
   - incentive spirometer s/p surgery
   .
   # SLE: continue hydroxychloroquine
   .
   # Pulmonary Hypertension: continue sildanefil. Hold tracleer
   .
   # Neuralgia: hold amitryptline and gabapentin due to sedating effects
   ICU Care
   Nutrition: nutrition consult
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Husband [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**] (home); Daughter
   [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**]
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2167-10-11 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture. She was admitted to an OSH on [**2168-9-30**] for C diff
   pan-colitis and was d/c
ed on PO Vanc. Upon returning home, she had a
   mechanical fall and was found to have a broken hip at an OSH. She was
   referred to [**Hospital1 19**] for surgical correction. She went to right ORIF
   yesterday ([**10-8**]) afternoon. The operation was without technical
   complications. However, there is note of several hours of her having
   low to no urine out-put. In the PACU she was hypoxic post-extubation
   requiring a face mask, hypotensive requiring Neo (peripheral.) An
   a-line and pIV were placed. She came to the MICU for further care.  On
   arrival to the MICU she was groggy, without pain, and oriented to place
   but not time / year.
   24 Hour Events:
   Restarted sildenafil
   BP stable off pressors and without additional fluid boluses
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2167-10-9**] 09:46 AM
   Cefipime - [**2167-10-11**] 12:00 AM
   Metronidazole - [**2167-10-11**] 04:00 AM
   Vancomycin - [**2167-10-11**] 07:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2167-10-10**] 08:00 PM
   Lansoprazole (Prevacid) - [**2167-10-11**] 07:30 AM
   Other medications:
   Sildenafil 25mg po BID
   Dulcolax
   Hydroxychloroquine
   Lidoderm patch, atorvastatin, senna ASA
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-11**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 111 (95 - 113) bpm
   BP: 116/63(81) {96/59(74) - 128/78(90)} mmHg
   RR: 30 (25 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
   CVP: 17 (15 - 21)mmHg
   Total In:
                                                                  2,355 mL
                                                                    541 mL
   PO:
   TF:
   IVF:
                                                                  2,135 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                    728 mL
                                                                    244 mL
   Urine:
                                                                    728 mL
                                                                    244 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,627 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (232 - 459) mL
   PC : 5 cmH2O
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.33/40/95/20/-4
   Ve: 11 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General:intubated, sedated.  Nods yes when asked if she can hear us
   CV:tachy, regular
   Pulm: rhonchorous breath sounds bilaterally
   Abd:soft, NT, mild distension
   Extrem:arms and legs edemetous
   Neuro: unable to follow commands, but nods yes when asked if she can
   hear us
   Labs / Radiology
   9.6 g/dL
   298 K/uL
   81 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.2 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   30.1 %
   12.3 K/uL
        [image002.jpg] INR 1.9
                             [**2167-10-9**]  01:21 PM
                             [**2167-10-9**]  04:33 PM
                             [**2167-10-9**]  04:57 PM
                            [**2167-10-10**]  12:40 AM
                            [**2167-10-10**]  03:58 AM
                            [**2167-10-10**]  04:10 AM
                            [**2167-10-10**]  07:52 AM
                            [**2167-10-10**]  03:28 PM
                            [**2167-10-11**]  04:06 AM
                            [**2167-10-11**]  04:13 AM
   WBC
   12.1
   13.2
   12.3
   Hct
   23.3
   30.4
   28.4
   30.7
   30.1
   Plt
   273
   308
   298
   Cr
   0.7
   0.8
   TropT
   0.05
   TCO2
   20
   22
   22
   22
   22
   Glucose
   101
   81
   Sputum cx no growth to date
   CXR [**10-10**]: enlarged heart. Small pleural effusions. ETT ok.  No focal
   infiltrates.
   Assessment and Plan
   60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture now s/p right ORIF yesterday with post-operative
   hypotension and hypoxia.
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   S/p repair 2 days ago was reportedly uncomplicated. Standard post-op
   care from an Ortho perspective. Will touch base with Epidural d/c
   Trying to keep pain meds as light as we can to minimize sedation.
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   She is on PO Vanc; will continue this for the time being. Her abdominal
   exam less tender today; it
s unclear what her baseline is. Added Flagyl
   IV for additional coverage.
 HYPOXEMIA-intubated for hypoxemia, currently stable on PS 5/5.
   She has underlying severe lung disease from her scleroderma, on oxygen
   at home.   Will wean FiO2 as tolerated.  On PSV 5/5, but now increased
   secretions, low grade temp.  Not ready for extubation today.  Will
   reassess daily after diuresis, antibiotics.
 HYPOTENSION (NOT SHOCK): volume depletion vs infection.  Waiting for
   cultures.  BP more stable. Has not needed pressors for more than 24
   hours, and no longer requiring fluid boluses to maintain BP.  Trying
   small amount of diuresis today
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Afebrile overnight, BP more stable, off pressors although still getting
   boluses intermittently.  H/O c-diff, although currently no diarrhea.
   Covering for c-diff as well as other broad spectrum coverage.  Surgery
   saw to eval abd pain, but pain improved today on exam and no current
   concern for worsening colitis. Increased secretions today, thick and
   tan in color.  On broad spectrum antiniotics and WBC trending down.
   Sending repeat sputum culture today.  Adding levofloxacin for full VAP
   coverage pending sputum gram stain.
   -PULMONARY HTN:  Started [**Hospital1 7**] sildenafil yesterday, and will titrate up
   to TID today (home dose).  Our pharmacy does not carry bosentan, but
   will consider alternate vs. getting her bosentan getting brought in
   from home.
 CORONARY ARTERY DISEASE
   Holding her ACE-I, beta-blocker, and continue aspirin and Lipitor.
   -Rheum: lupus, on her home meds. No acute issues
   -Neuro: versed and fentayl, keeping as light as possible
   -HEME: INR trending up. ? nutritional.  Will check this afternoon, and
   if still trneding up will give vitamin K
   ICU Care
   Nutrition: NPO.  Nutrition consult for TF, start slowly due to recent
   c-diff
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: sc lovenox prohphylaxis
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 min
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed her hospital course, and
   was present for the key portions of the services provided.  I have
   reviewed Dr [**Last Name (STitle) **]
s note and agree with her findings and plan of care.
   The patient remains on low level support on the ventilator but is
   tachycardic,  perhaps due to decreased RV stroke volume in the setting
   of her pulm htn or ongoing infection (though WBC stable at 12K).
   Sildenafil has been added back for her pulm htn, and hopefully Bosentan
   tomorrow.  I suspect one should optimize her pulm htn/RV failure Rx and
   also optimize any purulent sputum before extubation attempt.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   35 min spent in the care of this critically ill pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2167-10-11**] 19:48 ------

2167-10-12 07:51:00 Physician Resident Progress Note
24 Hour Events:
 BLOOD CULTURED - At [**2167-10-11**] 11:59 PM
 URINE CULTURE - At [**2167-10-11**] 11:59 PM
 FEVER - 101.1
F - [**2167-10-12**] 12:00 AM
   - On [**5-5**] with sedation off for 8 hours but still not interactive,
   decreased FiO2 to 50% --> head CT
   - lasix 20 IV x 2 for - 300 cc
   - broadened abx to levofloxacin given low grade fever, change in sputum
   - reordered sputum cx
   - nutrition consult placed, started low TF
   - ortho: WBAT RLE
   - [**Doctor First Name 213**]: no recs
   - increased sildenfil to TID, vitamin K 5 mg po x 1 for INR>2
   - updated family
   - restarted sedation overnight
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2167-10-9**] 09:46 AM
   Cefipime - [**2167-10-12**] 12:46 AM
   Metronidazole - [**2167-10-12**] 04:00 AM
   Vancomycin - [**2167-10-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-10-11**] 04:34 PM
   Enoxaparin (Lovenox) - [**2167-10-11**] 08:42 PM
   Midazolam (Versed) - [**2167-10-12**] 12:00 AM
   Fentanyl - [**2167-10-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-12**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.7
   HR: 109 (100 - 124) bpm
   BP: 125/69(89) {90/51(63) - 145/86(106)} mmHg
   RR: 28 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 17 (14 - 25)mmHg
   Total In:
                                                                  1,364 mL
                                                                    346 mL
   PO:
   TF:
                                                                    151 mL
   IVF:
                                                                    993 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  1,657 mL
                                                                    150 mL
   Urine:
                                                                  1,657 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (360 - 526) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 77
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/41/69/22/-3
   Ve: 12.4 L/min
   PaO2 / FiO2: 138
   Physical Examination
   GENERAL: female that appears older than stated age in NAD, slightly
   somnolent
   HEENT: EOMI, anicteric, PERRL in R eye, L eye with cataract per pt, OP
   - MM dry, no cervical LAD
   CARDIAC: RRR, nl S1, S2, no m/r/g
   LUNG: decreased BS anteriorly, no w/r/r apperciated
   ABDOMEN: NDNT, soft, decreased BS
   EXT: no c/c/e, R hip dressing c/d/i
   NEURO: intubated/sedation off though not yet awake enough to follow
   commands.
   DERM: no rashes
   Labs / Radiology
   290 K/uL
   9.8 g/dL
   117 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   30.2 %
   14.3 K/uL
        [image002.jpg]
                            [**2167-10-10**]  04:10 AM
                            [**2167-10-10**]  07:52 AM
                            [**2167-10-10**]  03:28 PM
                            [**2167-10-11**]  04:06 AM
                            [**2167-10-11**]  04:13 AM
                            [**2167-10-11**]  04:50 PM
                            [**2167-10-12**]  02:05 AM
                            [**2167-10-12**]  03:37 AM
                            [**2167-10-12**]  03:46 AM
                            [**2167-10-12**]  07:39 AM
   WBC
   13.2
   12.3
   14.3
   Hct
   30.7
   30.1
   32.9
   44
   30.2
   Plt
   [**Telephone/Fax (3) 10679**]90
   Cr
   0.8
   0.8
   0.9
   TCO2
   22
   22
   22
   25
   22
   23
   Glucose
   81
   83
   117
   Other labs: PT / PTT / INR:20.2/44.3/1.9, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:25/39, Alk Phos / T Bili:34/0.3,
   Fibrinogen:885 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   [1][**2167-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2167-10-12**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2167-10-12**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2167-10-11**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [5][**2167-10-9**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [6][**2167-10-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2167-10-9**]
   URINE
   URINE CULTURE-PRELIMINARY {GRAM NEGATIVE ROD #1, GRAM NEGATIVE ROD #2}
   INPATIENT
   [8][**2167-10-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2167-10-8**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   INPATIENT
   Assessment and Plan:
   Ms. [**Known lastname 10607**] is a 60 y.o. F with CAD s/p IMI, CHF with EF 20%, SLE,
   scleroderma, severe pulmonary HTN, COPD on home O2, who presents with R
   hip fracture as an OSH transfer for surgery, s/p R ORIF and transferred
   to MICU for hypotension, likely multifactorial
 cardiogenic vs
   hypovolemic vs sepsis.
   # Hypotension: Resolving. Current differential include Cdiff sepsis vs
   hypovolemia (seen with LVOF obstruction on echo) vs cardiogenic shock
   (?RV compressing LV causing decreased stroke volume). Has been off
   pressors for approximately 36 hours and has responded to fluids.
   Lactates have been low and SVO2 high. Low grade fever in last 24 hours.
   CVPs hard to monitor with RV failure (which is old.) Also hct
   downtrending with unclear source of bleeding, received 2units PRBCs on
   Friday.
   - cont IVF bolus MAP>55, levophed if needed
   - IVF for low UOP
   - d/c IV flagyl, levo and IV vanco
   - continue cefepime given UCx
   - trend hct
   .
   # Respiratory:  Intubated prophylactically, known pulm htn given IVF
   needs and known CHF, on pressure support.  Needs more optimization
   before extubation
   - add Tracleer today if family can bring
   -  lasix IV prn for
 1 L
   -  f/u sputum culture
   - recheck sputum culture
   - started sildenafil yesterday, increased to TID.
   - decrease Fi02 as possible
   - continue MDIs
   .
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**], pain d/ced epidural catheter
   - appreciate ortho recs
   - continue lovenox
   - pain control with po oxycodone and lidocaine patch
   .
   # C. difficile infection: OSH admission with + c. diff. CT scan at OSH
   with pancolitis.  ID recs at OSH: prolonged PO vanco taper 125mg PO QID
   X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week,
   125mg q3 days x 2 weeks, then stop.
   - appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin at 125mg PO QID
   - hold IV flagyl
   - monitor stool output
   - KUB today
   .
   # Systolic CHF:
   - continue diuresis, [**Hospital1 7**] lytes
   - consider captopril for afterload reduction today
   - continue to hold metoprolol
   .
   # CAD s/p PCI to LCx:
   - continue ASA, statin
   - hold beta blocker given hypotension
   - hold Plavix for upcoming surgery given that PCI was in [**2164**]
   .  .
   # SLE: continue hydroxychloroquine
   .
   # Pulmonary Hypertension: continue sildanefil and attempt to increase
   to 25 TID. Start Tracleer today if family can bring in
   .
   # Neuralgia: hold amitryptline and gabapentin due to sedating effects,
   treating with oxycodone
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Husband [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**] (home); Daughter
   [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**]
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2167-10-12 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture. She was admitted to an OSH on [**2168-9-30**] for C diff
   pan-colitis and was d/c
ed on PO Vanc. Upon returning home, she had a
   mechanical fall and was found to have a broken hip at an OSH. She was
   referred to [**Hospital1 19**] for surgical correction. She went to right ORIF
   yesterday ([**10-8**]) afternoon. The operation was without technical
   complications. However, there is note of several hours of her having
   low to no urine out-put. In the PACU she was hypoxic post-extubation
   requiring a face mask, hypotensive requiring Neo (peripheral.) An
   a-line and pIV were placed. She came to the MICU for further care.  On
   arrival to the MICU she was groggy, without pain, and oriented to place
   but not time / year.
   24 Hour Events:
   CT head last night due to decreased responsiveness after being off
   sedation for a day-no acute process seen.  MS improved today
   Did well on PS 5/5 yesterday. More tachypnic and tachycardic this AM
 BLOOD CULTURED - At [**2167-10-11**] 11:59 PM
 URINE CULTURE - At [**2167-10-11**] 11:59 PM
 FEVER - 101.1
F - [**2167-10-12**] 12:00 AM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Cefipime -
   Metronidazole -
   Vancomycin po-
   Vanco IV
   levofloxacin
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-10-11**] 04:34 PM
   Enoxaparin (Lovenox) - [**2167-10-11**] 08:42 PM
   Midazolam (Versed) - [**2167-10-12**] 12:00 AM
   Fentanyl - [**2167-10-12**] 12:00 AM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **]
   Sildenafil 12.5 TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-12**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.8
   HR: 109 (100 - 124) bpm
   BP: 125/69(89) {90/51(63) - 145/86(106)} mmHg
   RR: 28 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
   CVP: 17 (14 - 25)mmHg
   Total In:
                                                                  1,364 mL
                                                                    348 mL
   PO:
   TF:
                                                                    151 mL
   IVF:
                                                                    993 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,657 mL
                                                                    150 mL
   Urine:
                                                                  1,657 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (360 - 526) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 77
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/41/69/22/-3
   Ve: 12.4 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General:intubated, opens eyes to voice
   HEENT:PERRL
   CV:tachy, regular
   Pulm:CTA bilat
   GI:soft, NTND
   Extrem:1+ edema bilat
   Neuro:opens eyes to voice
   Labs / Radiology
   9.8 g/dL
   290 K/uL
   117 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   30.2 %
   14.3 K/uL
        [image002.jpg]
   MICRO: urine cx gram neg rods (low colony count) from [**10-9**]
   Sputum gram stain neg [**10-11**]
                            [**2167-10-10**]  04:10 AM
                            [**2167-10-10**]  07:52 AM
                            [**2167-10-10**]  03:28 PM
                            [**2167-10-11**]  04:06 AM
                            [**2167-10-11**]  04:13 AM
                            [**2167-10-11**]  04:50 PM
                            [**2167-10-12**]  02:05 AM
                            [**2167-10-12**]  03:37 AM
                            [**2167-10-12**]  03:46 AM
                            [**2167-10-12**]  07:39 AM
   WBC
   13.2
   12.3
   14.3
   Hct
   30.7
   30.1
   32.9
   44
   30.2
   Plt
   [**Telephone/Fax (3) 10679**]90
   Cr
   0.8
   0.8
   0.9
   TCO2
   22
   22
   22
   25
   22
   23
   Glucose
   81
   83
   117
   Assessment and Plan
   60yo woman with a h/o CAD s/p IMI, CHF with EF 20%, SLE, scleroderma,
   severe pulmonary HTN, COPD on home oxygen (2L NC), multiple episodes of
   C diff, meningitis in [**3-9**], prior SBO s/p surgery, who presented with a
   right hip fracture now s/p right ORIF yesterday with post-operative
   hypotension and hypoxia.
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   S/p repair 2 days ago was reportedly uncomplicated. Standard post-op
   care from an Ortho perspective. Will touch base with Epidural d/c
   Trying to keep pain meds as light as we can to minimize sedation.
   Ortho following
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   She is on PO Vanc; will continue this for the time being. Her abdominal
   exam less tender today; it
s unclear what her baseline is. Added Flagyl
   IV for additional coverage.
 HYPOXEMIA-intubated for hypoxemia, currently stable on PS 5/5.
   She has underlying severe lung disease from her scleroderma, on oxygen
   at home.   Will wean FiO2 as tolerated.  On PSV 5/5,alternating with
   [**10-5**].  Trying to optimize her pulm HTN regimen before extubation, but
   may be ready tomorrow.
 CV: Initially hypotensive, volume depletion vs infection.  BP has
   stabilized.  Titrating up pulm HT N meds as tolerated.  Now somewhat
   fluid overloaded on exam.  Diuresing gently.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Recent cdiff, and urine cx positive with gram neg rods from [**10-9**].
   Sputum has been negative.  Will continue po vanco for cdiff and
   cefepime for the urine, and DC all other antibiotics.
   -PULMONARY HTN:  Now on
 of her home dose of sildenafil.  Will try to
   increase to home dose of 25mg TID today.  Our pharmacy does not carry
   bosentan, but  getting her bosentan brought in from home.
   GI-No BM for several days. Recent cdiff infection.  KUB today
 CORONARY ARTERY DISEASE
   Holding her ACE-I, beta-blocker, and continue aspirin and Lipitor.
   -Rheum: lupus, on her home meds. No acute issues
   -Neuro: versed and fentayl, keeping as light as possible
   -HEME: INR trending up. ? nutritional.  Will check this afternoon, and
   if still trneding up will give vitamin K
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.  To that I would add the
   following:  Mrs. [**Known lastname 10607**] has had her bosentan and sildenafil restarted.
   Still tachypneic to 30s on 10cmH20 of pressure support.  Would hope
   that with pulmonary HTN regimen back on board, she can be extubated in
   next 1-2 days.  Pt is critically ill.  Time spent: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2167-10-12**] 17:38 ------

2167-10-13 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -resumed tracleer and viagra and home dose
   -remained on [**10-5**]
   -given 40mg IV lasix x1, wound up even--->given another 40mg IV lasix
   -started to wake up more off sedation
   -no BM since admission, KUB nonspecific, stopped tube feeds, put to
   suction
   -small amount of stool on sheets, given fleet
   -repeat KUB in am
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2167-10-12**] 04:00 AM
   Cefipime - [**2167-10-13**] 12:00 AM
   Vancomycin - [**2167-10-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-12**] 08:00 AM
   Enoxaparin (Lovenox) - [**2167-10-12**] 08:00 PM
   Furosemide (Lasix) - [**2167-10-13**] 02:15 AM
   Midazolam (Versed) - [**2167-10-13**] 04:40 AM
   Fentanyl - [**2167-10-13**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 120 (99 - 120) bpm
   BP: 127/67(88) {92/52(65) - 136/121(128)} mmHg
   RR: 36 (23 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 13 (13 - 23)mmHg
   Total In:
                                                                  1,228 mL
                                                                    205 mL
   PO:
   TF:
                                                                     95 mL
   IVF:
                                                                    718 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,227 mL
                                                                    965 mL
   Urine:
                                                                  1,097 mL
                                                                    965 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (346 - 437) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.43/32/77.[**Numeric Identifier 143**]/22/-1
   Ve: 8 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   10.5 g/dL
   94 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.5 mEq/L
   24 mg/dL
   109 mEq/L
   141 mEq/L
   31.8 %
   17.3 K/uL
        [image002.jpg]
                            [**2167-10-10**]  03:28 PM
                            [**2167-10-11**]  04:06 AM
                            [**2167-10-11**]  04:13 AM
                            [**2167-10-11**]  04:50 PM
                            [**2167-10-12**]  02:05 AM
                            [**2167-10-12**]  03:37 AM
                            [**2167-10-12**]  03:46 AM
                            [**2167-10-12**]  07:39 AM
                            [**2167-10-13**]  03:18 AM
                            [**2167-10-13**]  03:25 AM
   WBC
   13.2
   12.3
   14.3
   17.3
   Hct
   30.7
   30.1
   32.9
   0
   30.2
   31.8
   Plt
   [**Telephone/Fax (3) 10679**]90
   333
   Cr
   0.8
   0.8
   0.9
   1.0
   TCO2
   22
   25
   22
   23
   22
   Glucose
   81
   83
   117
   94
   Other labs: PT / PTT / INR:15.2/36.2/1.3, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:25/39, Alk Phos / T Bili:34/0.3,
   Fibrinogen:885 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10607**] is a 60 y.o. F with CAD s/p IMI, CHF with EF 20%, SLE,
   scleroderma, severe pulmonary HTN, COPD on home O2, who presents with R
   hip fracture as an OSH transfer for surgery, s/p R ORIF and transferred
   to MICU for hypotension, likely multifactorial
 cardiogenic vs
   hypovolemic vs sepsis.
   # Hypotension: Resolving. Current differential include Cdiff sepsis vs
   hypovolemia (seen with LVOF obstruction on echo) vs cardiogenic shock
   (?RV compressing LV causing decreased stroke volume). Has been off
   pressors for approximately 36 hours and has responded to fluids.
   Lactates have been low and SVO2 high. Low grade fever in last 24 hours.
   CVPs hard to monitor with RV failure (which is old.) Also hct
   downtrending with unclear source of bleeding, received 2units PRBCs on
   Friday.
   - cont IVF bolus MAP>55, levophed if needed
   - IVF for low UOP
   - d/c IV flagyl, levo and IV vanco
   - on cefepime for Ucx, switching to cipro
   - trend hct
   # Respiratory:  Intubated prophylactically, known pulm htn given IVF
   needs and known CHF, on pressure support.  Needs more optimization
   before extubation.  Need better volume control and for the patient to
   wake up a bit more to attempt extubation
   - add Tracleer today if family can bring
   -  lasix IV prn for - 500c
 1 L
   -  f/u sputum culture
   - started sildenafil yesterday, increased to TID.
   - decrease Fi02 as possible
   - continue MDIs
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**], pain d/ced epidural catheter
   - appreciate ortho recs
   - continue lovenox
   - pain control with po oxycodone and lidocaine patch
   .
   Urinary Tract infection
 currenlty on cefepime, growing pan sensitive
   Klebsiella and e.coli
   - switch to Cipro
   .
   # C. difficile infection: OSH admission with + c. diff. CT scan at OSH
   with pancolitis.  ID recs at OSH: prolonged PO vanco taper 125mg PO QID
   X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week,
   125mg q3 days x 2 weeks, then stop.
   - appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin at 125mg PO QID
   - hold IV flagyl
   - monitor stool output
   - KUB daily
   .
   # Systolic CHF:
   - continue diuresis, [**Hospital1 7**] lytes
   - consider captopril for afterload reduction today
   - restart metoprolol
   # CAD s/p PCI to LCx:
   - continue ASA, statin
   - restart beta blocker
   - holding Plavix for since surgery given that PCI was in [**2164**]
   # SLE: continue hydroxychloroquine
   # Pulmonary Hypertension: continue sildanefil and attempt to increase
   to 25 TID. Start Tracleer today if family can bring in
   # Neuralgia: hold amitryptline and gabapentin due to sedating effects,
   treating with oxycodone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2167-10-13 08:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2167-10-14 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2167-10-13**] 09:26 AM
 BLOOD CULTURED - At [**2167-10-13**] 01:00 PM
 INVASIVE VENTILATION - STOP [**2167-10-13**] 01:10 PM
 FEVER - 101.8
F - [**2167-10-13**] 08:00 PM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2167-10-12**] 04:00 AM
   Cefipime - [**2167-10-13**] 12:00 AM
   Vancomycin - [**2167-10-13**] 06:00 AM
   Ciprofloxacin - [**2167-10-13**] 08:11 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2167-10-13**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain, Edema, Tachycardia
   Nutritional Support: NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Emesis, No(t) Diarrhea, No(t)
   Constipation, loose BM this am
   Genitourinary: Foley
   Musculoskeletal: Joint pain, right hip pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Pain: Unable to answer
   Pain location: right hip
   Flowsheet Data as of  [**2167-10-14**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.9
   HR: 119 (103 - 146) bpm
   BP: 158/92(116) {117/67(85) - 158/121(128)} mmHg
   RR: 17 (17 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 21 (12 - 26)mmHg
   Total In:
                                                                    845 mL
                                                                  1,198 mL
   PO:
                                                                      5 mL
   TF:
   IVF:
                                                                    540 mL
                                                                  1,078 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    180 mL
   Urine:
                                                                  1,505 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -660 mL
                                                                  1,018 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 341 (341 - 399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/30/104/21/-3
   Ve: 12.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), toes cyanotic
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles : L
   base)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, Cyanosis
   Skin:  Cool, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   348 K/uL
   10.2 g/dL
   89 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   24 mg/dL
   112 mEq/L
   142 mEq/L
   31.4 %
   14.9 K/uL
        [image002.jpg]
                            [**2167-10-12**]  02:05 AM
                            [**2167-10-12**]  03:37 AM
                            [**2167-10-12**]  03:46 AM
                            [**2167-10-12**]  07:39 AM
                            [**2167-10-13**]  03:18 AM
                            [**2167-10-13**]  03:25 AM
                            [**2167-10-13**]  12:51 PM
                            [**2167-10-13**]  04:34 PM
                            [**2167-10-14**]  05:24 AM
                            [**2167-10-14**]  05:52 AM
   WBC
   14.3
   17.3
   14.9
   Hct
   0
   30.2
   31.8
   31.4
   Plt
   290
   333
   348
   Cr
   0.9
   1.0
   1.1
   TCO2
   25
   22
   23
   22
   21
   21
   20
   Glucose
   117
   94
   89
   Other labs: PT / PTT / INR:16.3/30.3/1.4, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:25/39, Alk Phos / T Bili:34/0.3,
   Differential-Neuts:88.1 %, Lymph:6.4 %, Mono:3.7 %, Eos:1.5 %,
   Fibrinogen:885 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: KUB [**10-13**] - Persistent focally dilated loop of a probable
   small bowel in the
   left lower quadrant which could represent a closed loop obstruction in
   the
   right clinical context. Recommend continued followup.
   Microbiology: [**10-13**] - CDiff negative, campylobacter P
   Assessment and Plan
   Ms. [**Known lastname 10607**] is a 60 y.o. F with CAD s/p IMI, CHF with EF 20%, SLE,
   scleroderma, severe pulmonary HTN, COPD on home O2, who presents with R
   hip fracture as an OSH transfer for surgery, s/p R ORIF and transferred
   to MICU for hypotension, likely multifactorial
 cardiogenic vs
   hypovolemic vs sepsis.
   # Hypotension: Resolving. Current differential include Cdiff sepsis vs
   hypovolemia (seen with LVOF obstruction on echo) vs cardiogenic shock
   (?RV compressing LV causing decreased stroke volume). Has been off
   pressors for approximately 36 hours and has responded to fluids.
   Lactates have been low and SVO2 high. Low grade fever in last 24 hours.
   CVPs hard to monitor with RV failure (which is old.) Also hct
   downtrending with unclear source of bleeding, received 2units PRBCs on
   Friday.
   - cont IVF bolus MAP>55, levophed if needed
   - small boluses of IVF for low UOP, concentrated urine
   - d/c'd IV flagyl, levo and IV vanco
   - on cipro for UTI
   - trend hct - stable
   # Respiratory:  Intubated prophylactically, known pulm htn given IVF
   needs and known CHF, on pressure support.  Now extubated.
   - sputum culture - no growth
   - on sildenafil
   - add Tracleer/bosentan if family can bring
   - continue nebs
   # Tachycardia:  Likely PACs or afib.  Does not currenty appear to be in
   pain.
   - check EKG
   - cont. low dose BB
   # Persistent lowgrade temps:  Treating for UTI, C. diff.  [**Month (only) 51**] be from
   atelectasis.
   - monitor for s/sxs of infection
   - f/u cultures
   - IS
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**], pain d/ced epidural catheter
   - appreciate ortho recs
   - continue lovenox
   - pain control with po oxycodone and lidocaine patch
   # Urinary Tract infection
 currenlty on cefepime, growing pan
   sensitive  Klebsiella and e.coli
   - switched to Cipro [**10-13**]
   # C. difficile infection: OSH admission with + c. diff. CT scan at OSH
   with pancolitis.  ID recs at OSH: prolonged PO vanco taper 125mg PO QID
   X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week,
   125mg q3 days x 2 weeks, then stop.
   - appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin at 125mg PO QID
   - hold IV flagyl
   - monitor stool output
   - KUB daily
   # Systolic CHF:
   - monitor sxs with gentle IVF boluses
   - consider captopril for afterload reduction today
   - restarted metoprolol
   # CAD s/p PCI to LCx:
   - continue ASA, statin
   - cont beta blocker
   - holding Plavix for since PCI was in [**2164**]
   # SLE: continue hydroxychloroquine
   # Pulmonary Hypertension: continue sildanefil.  Start Tracleer if
   family can bring in
   # Neuralgia: hold amitryptline and gabapentin due to sedating effects,
   treating with oxycodone
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-10-15 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-10-14**] 08:37 PM
 URINE CULTURE - At [**2167-10-14**] 08:55 PM
 FEVER - 102.1
F - [**2167-10-14**] 08:00 PM
   -EKG sinus arrhythmia vs. MAT uptitrated metoprolol to 50 mg [**Hospital1 **]
   -urine output improved after 250 cc IVF bolus
   -became tachypneic, CXR stable, suctioning quite a bit of sputum which
   was sent for cx, given 20 of IV Lasix - 500 cc UOP
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2167-10-13**] 12:00 AM
   Ciprofloxacin - [**2167-10-15**] 12:36 AM
   Vancomycin - [**2167-10-15**] 05:50 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-10-14**] 05:03 PM
   Furosemide (Lasix) - [**2167-10-14**] 05:30 PM
   Enoxaparin (Lovenox) - [**2167-10-14**] 08:55 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: Nonproductive cough
   Denies chest pain, palpitations, or shortness of breath
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-10-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.1
   HR: 107 (93 - 137) bpm
   BP: 112/49(72) {110/49(72) - 159/93(117)} mmHg
   RR: 22 (15 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 8 (8 - 25)mmHg
   Total In:
                                                                  2,040 mL
                                                                    547 mL
   PO:
   TF:
                                                                    200 mL
                                                                    215 mL
   IVF:
                                                                  1,440 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    205 mL
   Urine:
                                                                  1,150 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Face tent
   FiO2: 40%
   SpO2: 98%
   ABG: 7.41/36/109/23/0
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: pinpoint reactive pupils
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Diastolic),
   irreg irreg rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered end-exp wheezes bilat, Diminished: at bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, Cyanosis, L 3rd digital cyanosis; R 1st & 5th digital
   cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person only, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   346 K/uL
   9.7 g/dL
   123 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   113 mEq/L
   141 mEq/L
   30.3 %
   13.4 K/uL
        [image002.jpg]
                            [**2167-10-12**]  03:46 AM
                            [**2167-10-12**]  07:39 AM
                            [**2167-10-13**]  03:18 AM
                            [**2167-10-13**]  03:25 AM
                            [**2167-10-13**]  12:51 PM
                            [**2167-10-13**]  04:34 PM
                            [**2167-10-14**]  05:24 AM
                            [**2167-10-14**]  05:52 AM
                            [**2167-10-14**]  07:33 PM
                            [**2167-10-15**]  03:21 AM
   WBC
   17.3
   14.9
   13.4
   Hct
   31.8
   31.4
   30.3
   Plt
   333
   348
   346
   Cr
   1.0
   1.1
   1.1
   TCO2
   22
   23
   22
   21
   21
   20
   24
   Glucose
   94
   89
   123
   Other labs: PT / PTT / INR:16.3/33.3/1.4, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:25/39, Alk Phos / T Bili:34/0.3,
   Differential-Neuts:88.1 %, Lymph:6.4 %, Mono:3.7 %, Eos:1.5 %,
   Fibrinogen:885 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: [**10-14**] pCXR Unchanged chest exam with bibasilar atelectasis. No
   new focal consolidation. Unchanged positions of supporting devices.
   [**10-14**] KUB IMPRESSION: No evidence of bowel obstruction.
   Microbiology: BCx [**Date range (1) 10727**] NGTD
   ECG: [**10-14**] @ 1852
   sinus arrhythmia @ ~100 bpm RBBB LAFB
   generalized low voltage
   no ischemic changes
   Assessment and Plan
   60F with CAD s/p IMI, severe pulmonary HTN c/b R heart failure, chronic
   LV diastolic dysfunction, SLE, scleroderma, COPD on home O2 admitted
   after R hip fracture now s/p ORIF, admitted to MICU for multifactorial
   distributive shock.
   #Shock : Resolved with transient pressor requirement and fluid
   resuscitation
   -cont monitor hemodynamics
   -cont ABX for UTI
   #Respiratory failure
 stable resp status on 40% FT but remains
   tachypneic with mild RV volume overload
   -repeat sputum culture as prior
   -gentle diuresis to offload RV if tachypneic
   -wean O2 to maintain sat>92%
   -acapella valve
   -PT
   #MAT vs sinus arrhythmia
 BP stable but HR suboptimally controlled
   -uptitrate BB to 50 mg TID to slow HR improve filling time & improve
   CO/UOP
   -no indication for therapeutic anticoagulation as unlikely to be
   fib/flutter
   # Fever
 hemodynamically stable; unclear etiology, does have pan-[**Last Name (un) 270**]
   Klebsiella/E. Coli UTI but on appropriate ABX; no infiltrate on CXR, Cx
   neg to date
   -repeat sputum cx as previous contaminated
   -cont cipro (day [**3-7**])
   -cont po vanc for C. diff
   -d/c aline
   -obtain PIV, then d/c CVL
   # Pulmonary HTN c/b R heart failure
 dilated, hypertrophied,
   hypokinetic RV on TTE [**10-9**]
   -gentle diuresis prn to decrease burden on RV
   -outpt regimen sildenafil, bosentan
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**]
   - appreciate ortho recs
   - continue lovenox
   - pain control with po oxycodone and lidocaine patch
   # C. difficile infection: plan for prolonged PO vanco taper 125mg PO
   QID X 14 days, 125mg PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1
   week, 125mg q3 days x 2 weeks; no evidence of
   - appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin
   - serial abd exams
   # CAD s/p PCI to LCx:
   - continue ASA, statin, BB
   - holding plavix post-op as PCI was in [**2164**]
   # SLE
   -continue hydroxychloroquine
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2167-10-14**] 12:00 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Arterial Line - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2167-10-16 07:56:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-10-15**] 04:04 PM
   - D/c'd A-line, couldn't d/c central because couldn't get a peripheral
   so waiting for PICC tomorrow
   - increased metoprolol to 75 mg [**Hospital1 **]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsPenicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-16**] 12:15 AM
   Ciprofloxacin - [**2167-10-16**] 12:16 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-15**] 08:10 AM
   Enoxaparin (Lovenox) - [**2167-10-15**] 09:35 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: No chest pain, palpitations, shortness of breath,
   abd pain, diarrhea, nausea, vomiting.
   Flowsheet Data as of  [**2167-10-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 108 (86 - 108) bpm
   BP: 125/57(68) {90/41(54) - 125/75(92)} mmHg
   RR: 38 (15 - 38) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.2 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  1,902 mL
                                                                    515 mL
   PO:
   TF:
                                                                    722 mL
                                                                    236 mL
   IVF:
                                                                    640 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    380 mL
   Urine:
                                                                    635 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% 3L
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: pinpoint reactive pupils
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Diastolic),
   irreg irreg rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered end-exp wheezes bilat, Diminished: at bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, Cyanosis, L 3rd digital cyanosis; R 1st & 5th digital
   cyanosis LLE 1^st digital cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person only, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   352 K/uL
   9.7 g/dL
   101 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   27 mg/dL
   114 mEq/L
   146 mEq/L
   30.7 %
   12.3 K/uL
        [image002.jpg]
                            [**2167-10-12**]  07:39 AM
                            [**2167-10-13**]  03:18 AM
                            [**2167-10-13**]  03:25 AM
                            [**2167-10-13**]  12:51 PM
                            [**2167-10-13**]  04:34 PM
                            [**2167-10-14**]  05:24 AM
                            [**2167-10-14**]  05:52 AM
                            [**2167-10-14**]  07:33 PM
                            [**2167-10-15**]  03:21 AM
                            [**2167-10-16**]  03:05 AM
   WBC
   17.3
   14.9
   13.4
   12.3
   Hct
   31.8
   31.4
   30.3
   30.7
   Plt
   333
   348
   346
   352
   Cr
   1.0
   1.1
   1.1
   0.9
   TCO2
   23
   22
   21
   21
   20
   24
   Glucose
   94
   89
   123
   101
   Other labs: PT / PTT / INR:16.3/33.3/1.4, CK / CKMB /
   Troponin-T:489/8/0.05, ALT / AST:25/39, Alk Phos / T Bili:34/0.3,
   Differential-Neuts:88.1 %, Lymph:6.4 %, Mono:3.7 %, Eos:1.5 %,
   Fibrinogen:885 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   60F with CAD s/p IMI, severe pulmonary HTN c/b R heart failure, chronic
   LV diastolic dysfunction, SLE, scleroderma, COPD on home O2 admitted
   after R hip fracture now s/p ORIF, admitted to MICU for respiratory
   failure and multifactorial distributive shock.
   #Shock : Resolved with transient pressor requirement and fluid
   resuscitation
   -cont monitor hemodynamics
   -cont ABX for UTI
   #Respiratory failure
 stable resp status on [**2-3**] L NC (has home 2L O2
   requirement) but is occ tachypneic with mild RV volume overload.
   Unable to obtain uncontaminated sputum.
   -gentle diuresis to offload RV if tachypneic
   -wean O2 to maintain sat 88-94%
   -acapella valve
   -PT
   #MAT vs sinus arrhythmia
 BP stable but HR suboptimally controlled
   -uptitrate BB to 100 mg [**Hospital1 7**] to slow HR improve filling time & improve
   CO/UOP
   -no indication for therapeutic anticoagulation as unlikely to be
   fib/flutter
   # Fever
 hemodynamically stable; unclear etiology, does have pan-[**Last Name (un) 270**]
   Klebsiella/E. Coli UTI but on appropriate ABX; no infiltrate on CXR, Cx
   neg to date
   -repeat sputum cx as previous contaminated
   -cont cipro (day [**4-7**])
   -cont po vanc for C. diff
   -d/c CVL after repositioning of PICC
   # Pulmonary HTN c/b R heart failure
 dilated, hypertrophied,
   hypokinetic RV on TTE [**10-9**]
   -gentle diuresis prn to decrease burden on RV
   -outpt regimen sildenafil, bosentan
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**]
   - appreciate ortho recs
   - continue lovenox
   - pain control with po oxycodone and lidocaine patch
   # C. difficile infection: plan for prolonged PO vanco course for 2
   weeks after last dose of abx THEN taper 125mg PO QID X 14 days, 125mg
   PO BID X 1, 125mg daily x 1 week, 125mg QOD x 1 week, 125mg q3 days x 2
   weeks; no evidence of megacolon
   - appreciate [**Doctor First Name 213**] recs
   - will continue PO vancomycin
   - serial abd exams
   # CAD s/p PCI to LCx:
   - continue ASA, statin, BB
   - holding plavix post-op as PCI was in [**2164**]
   # SLE
   -continue hydroxychloroquine
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2167-10-16**] 01:22 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-10-8**] 10:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor v. rehab